US06573260B1
1-Benzyloxycarbonyl-3-[1-(tert-butoxycarbonyl)amino-1-cyclopropyl]methylpyrrolidine (F1, F2, F3 and F4)
3-[1-(tert-Butoxycarbonyl)amino-1-cyclopropyl]methyl-1-[1-(R)-phenylethyl]pyrrolidine (1.234 g, 3.582 mmol) was dissolved in dry dichloromethane (20 ml) to which, under ice-cooling, was subsequently added dropwise benzyl chloroformate (1278 μl, 8.955 mmol). After 8 hours of stirring at room temperature, the reaction solution was concentrated under a reduced pressure. The thus obtained residue was applied to a flash silica gel chromatography and eluted with n-hexane:ethyl acetate=2:1, thereby obtaining 959 mg (71.5%) of the title compound as a colorless oil.

reactant | 3-[1-(tert-Butoxycarbonyl)amino-1-cyclopropyl]methyl-1-[1-(R)-phenylethyl]pyrrolidine | 3.582 mmol, 1.234 g | C(C)(C)(C)OC(=O)NC1(CC1)CC1CN(CC1)[C@H](C)C1=CC=CC=C1 | C21H32N2O2
reactant | benzyl chloroformate | 8.955 mmol, 1278 μl | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-Benzyloxycarbonyl-3-[1-(tert-butoxycarbonyl)amino-1-cyclopropyl]methylpyrrolidine | 959 mg, 71.5% | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)CC1(CC1)NC(=O)OC(C)(C)C | C21H30N2O4
